US04614719
To each suspension was added each 1 ml of an aqueous solution (pH 7.0) containing 20 mM 1,2,4-triazole-3-carboxamide, 20 ml of various ribose donors as shown in Table 10 and 25 mM monopotassium dihydrogen phosphate, and the reaction was carried out at 60° C. for 20 hours. After the reaction, the microbial cells were removed by centrifugation and the supernatant was analyzed to give the results of ribavirin yields as shown in Table 10.

reactant | 1,2,4-triazole-3-carboxamide | 20 mM | N1N=C(N=C1)C(=O)N | C3H4N4O
reactant | monopotassium dihydrogen phosphate | 25 mM | P(=O)(O)(O)[O-].[K+]
reactant | ribose | 20 ml | O=C[C@H](O)[C@H](O)[C@H](O)CO | C5H10O5
product | ribavirin | C1=NC(=NN1[C@H]2[C@@H]([C@@H]([C@H](O2)CO)O)O)C(=O)N | C8H12N4O5
